US05728695
4-Hydroxymethyl-N-(ρ-toluenesulfonyl)imidazole
4-Hydroxymethylimidazole hydrochloride (10 g) was suspended in dichloromethane (200 ml). ρ-Toluenesulfonyl chloride (15.58 g) was added and triethylamine (25.8 ml) was added dropwise to the stirred reaction mixture which was allowed to stir at room temperature overnight. The mixture was washed with water (2×100 ml) and brine (1×100 ml) and the organic layer was dried and evaporated to leave a clear oil which was recrystallised from ethyl acetate/hexane to afford the title compound as a white crystalline solid (15 g, 80%). 1H NMR (360 MHz, CDCl3) δ2.44 (3H, s), 4.55 (2H, s), 7.21 (1H, s), 7.35 (2H, d, J=8.0 Hz), 7.62 (2H, d, J=8.0 Hz 7.98 (1H, s). MS (CI+) m/z 253 (M+H, 100%).

reactant | 4-Hydroxymethylimidazole hydrochloride | 10 g | Cl.OCC=1N=CNC1
reactant | ρ-Toluenesulfonyl chloride | 15.58 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 25.8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-Hydroxymethyl-N-(ρ-toluenesulfonyl)imidazole | 15 g, 80% | OCC=1N=CN(C1)S(=O)(=O)C1=CC=C(C=C1)C | C11H12N2O3S
